US08871753B2
Step B: N-{3-[(2,5-Dichloropyrimidin-4-yl)amino]phenyl}-1-(3-nitrophenyl)methanesulfonamide
To a solution of N-(3-aminophenyl)-1-(3-nitrophenyl)methanesulfonamide-hydrogen chloride (0.10 g, 0.29 mmol) and 2,4,5-trichloropyrimidine (0.065 g, 0.35 mmol) in DMF (1 mL) was added potassium carbonate (0.20 g, 1.4 mmol). The resulting mixture was stirred overnight at room temperature. Additional triethylamine (0.099 mL, 0.71 mmol) was added and stirred again overnight. The reaction was then quenched with sat'd NH4Cl and water. EtOAc was added and the layers separated. The aqueous phase was extracted with EtOAc. The combined organics were washed with water and brine then dried (MgSO4), filtered, and concentrated. The crude was purified by column chromatography to give the desired product (0.080 g, 60%). LCMS for C17H13Cl2N5O4S (M+H)+: m/z=453.9, 455.9.

reactant | N-(3-aminophenyl)-1-(3-nitrophenyl)methanesulfonamide hydrogen chloride | 0.29 mmol, 0.10 g | NC=1C=C(C=CC1)NS(=O)(=O)CC1=CC(=CC=C1)[N+](=O)[O-].Cl
reactant | 2,4,5-trichloropyrimidine | 0.35 mmol, 0.065 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | potassium carbonate | 1.4 mmol, 0.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 0.71 mmol, 0.099 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-{3-[(2,5-Dichloropyrimidin-4-yl)amino]phenyl}-1-(3-nitrophenyl)methanesulfonamide | 0.080 g, 60% | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)NS(=O)(=O)CC1=CC(=CC=C1)[N+](=O)[O-])Cl | C17H13Cl2N5O4S
